US04226775
3-Bromo-3-(p-fluorobenzoyl)propionic acid
To a solution of 19.62 g. of 3-(p-fluorobenzoyl)propionic acid in 100 ml. of acetic acid, is added 16 g. of bromine. The mixture is stirred for 18 hours and then the solvent is removed. Ice and water are added to the residue and the mixture is filtered. The solid is washed with water and then dissolved in 80 ml. of acetone. The solution is diluted with 400 ml. of hexane and allowed to evaporate, at room temperature, to a volume of 125 ml. A 100 ml. portion of hexane is added and the mixture is filtered, giving 24.6 g. of the desired product as tan crystals, m.p. 131°-135° C.

reactant | 3-(p-fluorobenzoyl)propionic acid | FC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9FO3
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Bromo-3-(p-fluorobenzoyl)propionic acid | BrC(CC(=O)O)C(C1=CC=C(C=C1)F)=O | C10H8BrFO3
